US07906654B2
Synthesis of 2-(7-chloro-1H-benzimidazol-1-yl)ethanol
The 2-[(2-chloro-6-aminophenyl)amino]ethanol (72.4 g, 0.388 mol), is dissolved in formic acid (350 ml) and stirred under reflux for 1 hour. The reaction mixture is concentrated to dryness under reduced pressure to give a dark solid, then 500 ml of HCl 2N is added to the residue and the mixture is heated under reflux for 30 min. The solution is cooled on ice and 50% NaOH solution is added until alkaline and the obtained suspension is filtered under vacuum and the resulting solid dried to give the desired product (70.8 g 93%)

reactant | 2-[(2-chloro-6-aminophenyl)amino]ethanol | 0.388 mol, 72.4 g | ClC1=C(C(=CC=C1)N)NCCO | C8H11ClN2O
reactant | HCl | 2N, 500 ml | Cl | ClH
reactant | NaOH | [OH-].[Na+]
reactant | formic acid | 350 ml | C(=O)O | CH2O2
product | 2-(7-chloro-1H-benzimidazol-1-yl)ethanol | 70.8 g, 93% | ClC1=CC=CC2=C1N(C=N2)CCO | C9H9ClN2O
